US04786646
As in Example 37, hydrolysis of 5.4 g of [1-[3-(3-pyridinyl)-propyl)-4-(3-pyridinyl)butyl]carbamic acid 1,1-dimethylethyl ester in 55 mL of 1N HCl yielded 3.15 g of alpha-[3-(3-pyridinyl)propyl]-3-pyridinebutanamine.

reactant | [1-[3-(3-pyridinyl)-propyl)-4-(3-pyridinyl)butyl]carbamic acid 1,1-dimethylethyl ester | 5.4 g | CC(C)(C)OC(NC(CCCC=1C=NC=CC1)CCCC=1C=NC=CC1)=O | C22H31N3O2
solvent | HCl | 1N, 55 mL | Cl | ClH
product | alpha-[3-(3-pyridinyl)propyl]-3-pyridinebutanamine | 3.15 g | N1=CC(=CC=C1)CCCC(CCCC=1C=NC=CC1)N | C17H23N3
